US05753661
1-[3-[4-(1,4-Benzodioxan-5-yl)-1-piperazinyl]-1-propyl]-3-benzyl-2-imidazolidinone, hydrochloride, 4a.
A solution of 1-[3-[4-(1,4-benzodioxan-5-yl)-1-piperazinyl]-1-propyl]-2-imidazolidinone (prepared from 1-(1,4-benzodioxan-5-yl)piperazin and 1-(3-chloro-1-propyl)-2-imidazolidinone by the method described in EXAMPLE 2) (2.5 g) and benzaldehyde (2.3 g) in glacial acetic acid (30 ml) was treated portionwise with sodium borohydride (0.6 g) keeping the temperature at 10° C. After stirring for 40 min. at room temperature additional benzaldehyde (2.3 g) and sodium borohydride (0.6 g) was added and the mixture stirred for 16 h at room temperature. Removal of solvent in vacuo gave a heavy oil which was applied to a silica gel column (eluent: ethyl acetate/ethanol/triethylamine=10:1:1). The title compound was isolated as a viscous oil which crystallized as the hydrochloride from an acetone/ether mixture by addition of an ether solution of dry HCl. Yield: 2.8 g, mp: 181°-91° C. 1H NMR (δ, DMSO): 1.90-2.10 (m, 2H), 3.00-3.25 (m, 10H), 3.30 (t, 2H), 3.35-3.65 (m, 4H) 4.20 (s, 4H), 4.25 (s, 2H), 6.50 (d, 1H), 6.55 (d, 1H), 6.75 (t, 1H), 7.00 (b, 2H), 7.20-7.40 (m, 5H).

reactant | 1-[3-[4-(1,4-benzodioxan-5-yl)-1-piperazinyl]-1-propyl]-2-imidazolidinone | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCCN2C(NCC2)=O | C18H26N4O3
reactant | 1-(1,4-benzodioxan-5-yl)piperazin | O1CCOC2=C1C=CC=C2N2CCNCC2 | C12H16N2O2
reactant | 1-(3-chloro-1-propyl)-2-imidazolidinone | ClCCCN1C(NCC1)=O | C6H11ClN2O
reactant | benzaldehyde | 2.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | benzaldehyde | 2.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate ethanol triethylamine | C(C)(=O)OCC.C(C)O.C(C)N(CC)CC
product | 1-[3-[4-(1,4-Benzodioxan-5-yl)-1-piperazinyl]-1-propyl]-3-benzyl-2-imidazolidinone, hydrochloride | Cl.O1CCOC2=C1C=CC=C2N2CCN(CC2)CCCN2C(N(CC2)CC2=CC=CC=C2)=O | InChI=1S/C25H32N4O3.ClH/c30-25-28(16-17-29(25)20-21-6-2-1-3-7-21)11-5-10-26-12-14-27(15-13-26)22-8-4-9-23-24(22)32-19-18-31-23;/h1-4,6-9H,5,10-20H2;1H
